US03931247
5-(3,4-Dichlorophenyl)-α-methylfurfuryl Alcohol
Sodium Borohydride (1.5 g, 0.04 mole) was added in portions to a stirred mixture of 15 g (0.059 mole) of 5-(3,4-dichlorophenyl)-2-furyl methyl ketone and 125 ml of MeOH at 15°-20° over 30 minutes. The mixture was stirred at ambient temperature for 3 hours. Some insoluble material was removed by filtration and set aside. The filtrate was poured into 300 ml of ice-H2O mixture and made acidic with dilute HCl. The oil which was deposited solidified and was collected by filtration. Recrystallization from n-hexane gave 11 g (73%) of title compound, m.p. 82.5°-83.5°.

reactant | Sodium Borohydride | 0.04 mole, 1.5 g | [BH4-].[Na+]
reactant | 5-(3,4-dichlorophenyl)-2-furyl methyl ketone | 0.059 mole, 15 g | CC(=O)C=1OC(=CC1)C1=CC(=C(C=C1)Cl)Cl | C12H8Cl2O2
solvent | MeOH | 125 ml | CO | CH4O
product | 5-(3,4-Dichlorophenyl)-α-methylfurfuryl Alcohol | 11 g, 73% | ClC=1C=C(C=CC1Cl)C1=CC=C(C(C)O)O1 | C12H10Cl2O2
